US06388086B1
Under argon gas, a solution of diisopropylamine (1.67 g, 16.5 mmol) in tetrahydrofuran (5 mL) was added dropwise to n-butyllithium (1.53 M in hexane, 9.8 mL, 15 mmol) at 5° C. and the mixture was stirred for 30 minutes. To this was further added a solution of 3-methylpyridine (2.794 g, 30 mmol) in tetrahydrofuran (5 mL) dropwise at 5° C., and the mixture was stirred for 30 minutes. Then, a solution of phenyl glycidyl ether (1.50 g, 10 mmol) in tetrahydrofuran (5 mL) was added at 5° C. and the reaction was carried out for 2 hours. This reaction mixture was diluted with 20 mL of water for hydrolysis, and extracted with 30 mL of ethyl acetate. The organic layer was washed with 20 mL of water twice and the solvent was distilled off under reduced pressure to give a deep-red oil. This oil was purified by silica gel column chromatography (Merck's Kieselgel 60, hexane/ethyl acetate=1/2) to give 1.911 g (isolation yield: 79%) of 1-O-phenyl-4-(3-pyridyl)-1,2-butanediol (yellow oil).

reactant | diisopropylamine | 16.5 mmol, 1.67 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 15 mmol, 1.53 M, 9.8 mL | C(CCC)[Li]
reactant | 3-methylpyridine | 30 mmol, 2.794 g | CC=1C=NC=CC1 | C6H7N
reactant | phenyl glycidyl ether | 10 mmol, 1.50 g | C(C1CO1)OC1=CC=CC=C1 | C9H10O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | 1-O-phenyl-4-(3-pyridyl)-1,2-butanediol | 1.911 g, yield: 79% | C1(=CC=CC=C1)OCC(CCC=1C=NC=CC1)O | C15H17NO2
